US06001997
(b) (2RS,5SR)-2 -Chloroacetyl-5-methoxymethyltetrahydrofuran
A solution of (2RS,5SR)-5-methoxymethyltetrahydrofuran-2-carboxylic acid (3.1 g) in dichloromethane (50 ml) was treated with oxalyl chloride (2.68 ml) and dimethylformamide (1 drop). The mixture was stirred for 1 h and heated to reflux for 10 mins. The solvent was evaporated and then dichloromethane was evaporated from the residue twice. The product was dissolved in dichloromethane (100 ml) and the solution cooled in an ice bath. Diazomethane was then passed into the solution as described in Example 14 (a). When the addition was complete the mixture was stirred at 0° C. for 0.5 h and then hydrogen chloride gas was passed into the solution until all the diazoketone had been consumed. The solution was washed with brine, dried over magnesium sulphate and evaporated. The title compound (2.44 g) was isolated by column chromatography using gradient elution (silica gel, 4:1 going to 1:1 hexane : ethyl acetate); νmax (film) 1740 cm-1 ; δlH (CDCl3) 1.6-2.35 (4 H,m), 3.30-3.75 (2 H,m), 3.37 (3 H,s) and 4.05-4.75 (4 H,m).

reactant | (2RS,5SR)-5-methoxymethyltetrahydrofuran-2-carboxylic acid | 3.1 g | COCC1CCC(O1)C(=O)O | C7H12O4
reactant | oxalyl chloride | 2.68 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
product | (2RS,5SR)-2 -Chloroacetyl-5-methoxymethyltetrahydrofuran | 2.44 g | ClCC(=O)C1OC(CC1)COC | C8H13ClO3
